US05286846
Succinimidyl 3-(bromoacetamido)propionate (SBAP).
To a solution of β-bromoacetylβ-alanine (21.00 g, 100 mmol) and N-hydroxysuccinimide (13.01 g, 113 mmol) in 2-propanol (280 mL) at room temperature was added 1,3-diisopropyl-carbodiimide (16.0 mL, 101 mmol). After 8-10 min, oily precipitation of the product began, and the walls of the container were scratched to induce crystallization. The mixture was allowed to stand 1 h at room temperature and overnight at 4° C. The crystals were collected, washed with 2-propanol (30 mL), and redissolved in 2-propanol (200 mL brought to reflux). After an overnight stand at 4° C., the crystals were collected, washed with 2-propanol then hexane, and dried under vacuum/CaCl2. Yield, 22.9 g (74.6% of theory) mp 107°-110.5° C. [lit. (23) 104°-106° C.]; 1H NMR (DMSO-d6) δ2.80 ppm (s, 4H, α"), 2.82 (t, 2H, α), 3.64 (q, 2H, β), 3.82 (s, 2H, α'), 7.03 (br, NH; 13C NMR (CDCl3), δ25.62 (α"), 28.67 (α'), 31.39 (α), 35.65 (β), 166.20 (Ac C=O), 167.30,169.06 (C= O, s). Anal. Cald for C9H11BrN2O5 : C, 35.20; H, 3.61; N, 9.12; Br, 26.02. Found: C, 35.74; H 3.83; N, 9.20; Br, 26.12.

reactant | β-bromoacetylβ-alanine | 100 mmol, 21.00 g | BrCC(=O)C(N)CC(=O)O | C5H8BrNO3
reactant | N-hydroxysuccinimide | 113 mmol, 13.01 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1,3-diisopropyl-carbodiimide | 101 mmol, 16.0 mL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 2-propanol | 280 mL | CC(C)O | C3H8O
product | Succinimidyl 3-(bromoacetamido)propionate | BrCC(=O)NCCC(=O)ON1C(CCC1=O)=O | C9H11BrN2O5
